US08497281B2
(1H-Benzoimidazol-5-yl)-(cis-7-methoxy-2,3,4a,5,6,10b-hexahydro-1H-benzo[f]quinolin-4-yl)-methanone
The title compound is prepared from 1H-benzoimidazole-5-carboxylic acid and cis-7-methoxy-1,2,3,4,4a,5,6,10b-octahydro-benzo[f]quinoline following a procedure analogous to that described in Example 1. Yield: 85% of theory; LC (method 1): tR=2.62 min; Mass spectrum (ESI+): m/z=362 [M+H]+.

reactant | 1H-benzoimidazole-5-carboxylic acid | N1C=NC2=C1C=CC(=C2)C(=O)O | C8H6N2O2
reactant | cis-7-methoxy-1,2,3,4,4a,5,6,10b-octahydro-benzo[f]quinoline | COC1=CC=CC=2[C@H]3CCCN[C@H]3CCC21 | C14H19NO
product | (1H-Benzoimidazol-5-yl)-(cis-7-methoxy-2,3,4a,5,6,10b-hexahydro-1H-benzo[f]quinolin-4-yl)-methanone | Yield: 85% | N1C=NC2=C1C=CC(=C2)C(=O)N2CCC[C@@H]1C3=C(CC[C@H]21)C(=CC=C3)OC | C22H23N3O2
